US07732460B2
(b) 3-Ethenyl-6,7-dihydro[1,4]oxathiino[3,2-c]pyridazine
A solution of 3-chloro-6,7-dihydro[1,4]oxathiino[3,2-c]pyridazine (450 mg, 2.4 mmol) in dimethoxyethane (12 ml) was treated with tetrakis(triphenylphosphine)palladium (0) (61 mg), potassium carbonate (313 mg), 2,4,6-trivinylcyclotriboroxane pyridine complex (375 mg) and water (1.5 ml). The mixture was heated at 96° C., overnight. The mixture was evaporated to dryness, treated with aqueous sodium bicarbonate solution, extracted (4×) with DCM, dried (sodium sulphate), evaporated and chromatographed on silica gel (50 g), eluting with 1:1 ethyl acetate-hexane, affording a solid (200 mg, 46%), containing slightly impure product.

reactant | 3-chloro-6,7-dihydro[1,4]oxathiino[3,2-c]pyridazine | 2.4 mmol, 450 mg | ClC1=CC2=C(N=N1)SCCO2 | C6H5ClN2OS
reactant | potassium carbonate | 313 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4,6-trivinylcyclotriboroxane pyridine complex | 375 mg | B1(OB(OB(O1)C=C)C=C)C=C.C1=CC=NC=C1
reactant | water | 1.5 ml | O | H2O
solvent | dimethoxyethane | 12 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 61 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Ethenyl-6,7-dihydro[1,4]oxathiino[3,2-c]pyridazine | 200 mg, 46% | C(=C)C1=CC2=C(N=N1)SCCO2 | C8H8N2OS
